US06833378B2
4-(1-Ethyl-propoxy)-2-methyl-6-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-carboxylic acid
To a solution of n-BuLi in THF was added a solution of [5-bromo-6-(1-ethyl-propoxy)-2-methyl-pyrimidin-4-yl]-(2,4,6-trimethyl-phenyl)-amine in THF at −78° C. After stirring for 10 minutes, CO2(g) was added at −78° C. and stirred at that temperature for 1 hour, then gradually warmed to room temperature. The resulting mixture was quenched with water and adjusted to pH 2 to 3 and extracted with chloroform. The organic layer was separated, dried and concentrated to dryness. The residue was purified through silica gel column chromatography to give the title compound as a solid, mp. 118-120° C., Anal. For C20H27N3O3 calc.: C, 67.20; H, 7.61; N, 11.76; found: C, 67.25; H, 7.87; N, 11.48.

reactant | n-BuLi | [Li]CCCC
reactant | [5-bromo-6-(1-ethyl-propoxy)-2-methyl-pyrimidin-4-yl]-(2,4,6-trimethyl-phenyl)-amine | BrC=1C(=NC(=NC1OC(CC)CC)C)NC1=C(C=C(C=C1C)C)C | C19H26BrN3O
reactant | CO2 | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-2-methyl-6-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-carboxylic acid | C(C)C(CC)OC1=NC(=NC(=C1C(=O)O)NC1=C(C=C(C=C1C)C)C)C | C20H27N3O3
